US06069156
A solution of benzyl 1-(2-chlorobenzoyl)-3-isobutyryl-2-propylindole-6-carboxylate (304 mg) in methanol (6 ml) was hydrogenated over 10% palladium on carbon at 20° C. for 9 hours. The catalyst was filtered off and the filtrate was evaporated in vacuo. The residue was chromatographed on silica gel eluting with a mixture of methanol and chloroform (1:30) to give crystals which were recrystallized From a mixture of ethyl acetate and hexane to give 1-(2-chlorobenzoyl)-3-isobutyryl-2-propylindole-6-carboxylic acid (189 mg) as colorless crystals.

reactant | benzyl 1-(2-chlorobenzoyl)-3-isobutyryl-2-propylindole-6-carboxylate | 304 mg | ClC1=C(C(=O)N2C(=C(C3=CC=C(C=C23)C(=O)OCC2=CC=CC=C2)C(C(C)C)=O)CCC)C=CC=C1 | C30H28ClNO4
solvent | methanol | 6 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 1-(2-chlorobenzoyl)-3-isobutyryl-2-propylindole-6-carboxylic acid | 189 mg | ClC1=C(C(=O)N2C(=C(C3=CC=C(C=C23)C(=O)O)C(C(C)C)=O)CCC)C=CC=C1 | C23H22ClNO4
